US06265411B1
A solution of oxindole (232 mg, 1.74 mmol) in THF (3 ml) was added dropwise under nitrogen, to sodium hydride (70 mg, 1.74 mmol, prewashed with hexane) in THF (3 ml). The mixture was stirred for 30 minutes at ambient temperature and 4-chloro-6-methoxy-7-(4-pyridylmethoxy)quinazoline (175 mg, 0.58 mmol) and then DMF (2 ml) was added. The mixture was heated at 60° C. for 1 hour and the THF was removed by evaporation. The residue was partitioned between cooled 2M hydrochloric acid and ethyl acetate. The organic layer was extracted with 2M hydrochloric acid. The aqueous layers were combined, washed with ethyl acetate and ether, basified with aqueous sodium hydrogen carbonate and extracted with methylene chloride. The organic layer was washed with brine, dried (MgSO4) and the solvent removed by evaporation. The residue was purified by chromatography on neutral aluminium oxide eluting with methylene chloride/methanol (90/10 followed by 80/20 and 75/25). The purified solid product was dissolved in methanol/methylene chloride and SM methanolic hydrogen chloride (0.5 ml) was added. The volatiles were removed by evaporation, the residue was resuspended in ether, collected by filtration, washed with ether and dried under vacuum to give 6-methoxy4-(oxindol-3-yl)-7-(4-pyridylmethoxy)quinazoline hydrochloride (50 mg, 21%).

reactant | oxindole | 1.74 mmol, 232 mg | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | sodium hydride | 1.74 mmol, 70 mg | [H-].[Na+]
reactant | 4-chloro-6-methoxy-7-(4-pyridylmethoxy)quinazoline | 0.58 mmol, 175 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCC1=CC=NC=C1 | C15H12ClN3O2
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 6-methoxy4-(oxindol-3-yl)-7-(4-pyridylmethoxy)quinazoline hydrochloride | 50 mg, 21% | Cl.COC=1C=C2C(=NC=NC2=CC1OCC1=CC=NC=C1)C1C(NC2=CC=CC=C12)=O | InChI=1S/C23H18N4O3.ClH/c1-29-19-10-16-18(11-20(19)30-12-14-6-8-24-9-7-14)25-13-26-22(16)21-15-4-2-3-5-17(15)27-23(21)28;/h2-11,13,21H,12H2,1H3,(H,27,28);1H
